US06703425B2
Preparation of N-[2-(4-Cyano-3-fluorophenyl)ethyl](phenylmethoxy)carboxamide
Into a 100 mL single neck flask was placed (phenylmethoxy)-N-vinylcarboxamide (5.54 g, 31.25 mmol) in THF (15 mL). The mixture was cooled down to −10° C. while treated dropwise with a solution of 9-BBN dimer (3.81 g, 15.62 mmol) in THF (20 mL). The reaction mixture was warmed up to RT while stirring for additional 2 hours. The reaction mixture was quenched with 3N NaOH (2mL) and the mixture was stirred for 10 minutes before its addition to a solution of 4-bromo-2-fluorobenzonitrile (5 g, 25 mmol) and [1,1′bis(diphenylphosphino)-ferrocene] dichloropalladium (II), PdCl2(dppf), (0.4 g, 0.5 mmol) in THF (10 mL). The mixture was stirred at RT for 12 hour and then was quenched with a 2:1 mixture of pH=7 buffer hydrogen peroxide (10 mL). The product was extracted with EtOAc and the organic layer was separated and washed twice with H2O, dried over anhydrous Na2SO4, filtered, and concentrated under reduced vacuum. The resulting semi-solid was further purified via flash chromatography (Silica gel, isocratic) and eluting with a solvent of Hexanes/EtOAc 50% to provide the intermediate title compound, N-[2-(4-cyano-3-fluorophenyl)ethyl](phenylmethoxy)carboxamide, (6.4 g, 86%) as a white solid. Electron spray M.S. 299 (M*+H).

reactant | (phenylmethoxy)-N-vinylcarboxamide | 31.25 mmol, 5.54 g | C1(=CC=CC=C1)COC(=O)NC=C | C10H11NO2
reactant | 9-BBN dimer | 15.62 mmol, 3.81 g | C12B([H]B34C5CCCC3CCC5)([H]4)C(CCC2)CCC1 | C16H30B2
reactant | 4-bromo-2-fluorobenzonitrile | 25 mmol, 5 g | BrC1=CC(=C(C#N)C=C1)F | C7H3BrFN
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | dichloropalladium (II) | Cl[Pd]Cl
catalyst | PdCl2(dppf) | 0.5 mmol, 0.4 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | N-[2-(4-cyano-3-fluorophenyl)ethyl](phenylmethoxy)carboxamide | 6.4 g, 86% | C(#N)C1=C(C=C(C=C1)CCNC(=O)OCC1=CC=CC=C1)F | C17H15FN2O2
